US05840893
Compound No. 45. (CNI-4594) A mixture of aniline (0.93 g) and 2-amino-4-chloro-6-methylpyrimidine (1.44 g) in 36 mL water was treated with 0.84 mL conc HCl and heated at reflux for 1 hr. Addition of 20 mL 1N KOH gave a light buff solid, which was filtered out, dried, and recrystallized from ethyl acetate/2-methoxyethanol and ethyl acetate/hexane to give 0.69 g 4-phenylamino-2-amino-6-methylpyrimidine, mp 179°-180° C.

reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | 2-amino-4-chloro-6-methylpyrimidine | 1.44 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | HCl | 0.84 mL | Cl | ClH
reactant | KOH | 1N, 20 mL | [OH-].[K+]
solvent | water | 36 mL | O | H2O
product | 4-phenylamino-2-amino-6-methylpyrimidine | 0.69 g | C1(=CC=CC=C1)NC1=NC(=NC(=C1)C)N | C11H12N4
